US06455550B1
Preparation of 4-Amino-N-methyl-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]L-phenylalanine Methyl Ester
To a mixture of N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-N-methyl-4-nitro-L-phenylalanine methyl ester (1.35 mmol, 530 mg), zinc dust (˜325 mesh, 13.5 mmol, 0. 88 g, 10 equiv.) and ammonium chloride (20.2 mmol, 1.08 g, 15 equiv.) was added methanol (10 mL) and water (5 mL) at room temperature. After addition of water, the reaction was exothermic. The suspension was stirred for 2 h at room temperature at which time TLC analysis of the mixture indicated the absence of starting material, the reaction mixture was filtered through a pad of celite and the filter cake was washed with methanol (50 mL) and water (40 mL). The mixture was concentrated and extracted with ethyl acetate (3×30 mL). The combined extracts were washed with brine solution (30) mL) and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent afforded 490 mg (100%) of a yellow oil. HR MS (C20H30N2O4): Obs. mass, 362.2202. Calcd. mass, 362.2206 (M+).

reactant | N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]-N-methyl-4-nitro-L-phenylalanine methyl ester | 1.35 mmol, 530 mg | COC([C@@H](N(C)C(=O)C1(CCCC1)CCOC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H28N2O6
reactant | ammonium chloride | 20.2 mmol, 1.08 g, 15 equiv. | [Cl-].[NH4+]
reactant | methanol | 10 mL | CO | CH4O
catalyst | zinc | 13.5 mmol, 88 g, 10 equiv. | [Zn] | Zn
solvent | water | O | H2O
solvent | water | 5 mL | O | H2O
product | 4-Amino-N-methyl-N-[[1-(2-methoxyethyl)cyclopentyl]carbonyl]L-phenylalanine Methyl Ester | 490 mg, 100% | COC([C@@H](N(C(=O)C1(CCCC1)CCOC)C)CC1=CC=C(C=C1)N)=O | C20H30N2O4
